US08981084B2
Methyl 4-fluorobenzimidate hydrochloride
Dry HCl (g) was bubbled through a solution of 4-fluorobenzonitrile (5.0 g, 0.041 mol) in dry MeOH—CH2Cl2 (20 mL, 1:1 v/v) until saturation. The clear solution was kept at 0° C. for 2 days to crystallize methyl 4-fluorobenzimidate as hydrochloride salt, which was isolated by filtration (2.8 g, yield 36%). 1H NMR (400 MHz, DMSO-d6) δ 7.95-7.92 (m, 2H), 7.38 (br s, 1H), 7.29-7.25 (m, 2H), 3.06 (s, 3H). MS (ESI) m/z: Calculated for C8H8FNO: 153.06. found: 154.2 (M+H)+

reactant | HCl | Cl | ClH
reactant | 4-fluorobenzonitrile | 0.041 mol, 5.0 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | MeOH CH2Cl2 | 20 mL | CO.C(Cl)Cl
product | Methyl 4-fluorobenzimidate hydrochloride | yield 36% | Cl.FC1=CC=C(C(OC)=N)C=C1 | InChI=1S/C8H8FNO.ClH/c1-11-8(10)6-2-4-7(9)5-3-6;/h2-5,10H,1H3;1H
